US05175178
A mixture of 40 g 3,5-dimethyl-4-hydroxybenzonitrile, 30.77 g 1-chloro-4-pentyne, 74.63 g potassium carbonate and 130 ml N-methylpyrrolidinone was heated with stirring to 100° C. and stirring was continued at 100° C. for 4 hrs. The mixture was cooled to room temperature and 800 ml of water was added. This mixture was extracted with 400 ml ethyl acetate and the extract was washed with 2N sodium hydroxide and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resulting black oil, dissolved in ethyl acetate, was passed through a pad of florisil to remove the color and the filtrate was concentrated in vacuo. The residue was recrystallized from methyl alcohol to yield 34.64 g (60.2%) of 3,5-dimethyl-4-(3-ethynylpropoxy)benzonitrile, m.p. 48°-49° C.

reactant | 3,5-dimethyl-4-hydroxybenzonitrile | 40 g | CC=1C=C(C#N)C=C(C1O)C | C9H9NO
reactant | 1-chloro-4-pentyne | 30.77 g | ClCCCC#C | C5H7Cl
reactant | potassium carbonate | 74.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidinone | 130 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 800 ml | O | H2O
product | 3,5-dimethyl-4-(3-ethynylpropoxy)benzonitrile | 34.64 g, 60.2% | CC=1C=C(C#N)C=C(C1OCCCC#C)C | C14H15NO
